US07462611B2
i) 2-Benzylamino-5-nitro-benzenesulfonamide
A solution of 2-chloro-5-nitro-benzenesulfonamide (20 g, 84.52 mmol) in acetonitrile (169 mL) was treated with benzylamine (13.85 mL, 126.78 mmol), diisopropyl ethylamine (29.44 mL, 169.04 mmol) and stirred for 16 h at 55° C. The reaction was cooled to 25° C., poured into water (1.0 L) then placed in an ice bath while stirring. After 4 h a precipitate was filtered off and washed with the mother liquor to afford the desired product, 2-benzylamino-5-nitro-benzenesulfonamide (21.65 g, 70.45 mmol, 83.3% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) 6:4.64 (2H, d, J=4.6 Hz), 6.81 (1H, d, J=9.4 Hz), 7.23-7.44 (6H, m), 7.77 (2H, bs), 8.11 (1H, dd, J1=9.4 Hz, J2=2.3 Hz), 8.49 (1H, d, J=3.1 Hz). LC-MS (ESI) calcd for C13H13N3O4S 307.06. found 308.2 [M+H+] (100%), 615.2 [2M+H+] (81%).

reactant | 2-chloro-5-nitro-benzenesulfonamide | 84.52 mmol, 20 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H5ClN2O4S
reactant | benzylamine | 126.78 mmol, 13.85 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | diisopropyl ethylamine | 169.04 mmol, 29.44 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 1.0 L | O | H2O
solvent | acetonitrile | 169 mL | C(C)#N | C2H3N
product | 2-benzylamino-5-nitro-benzenesulfonamide | 70.45 mmol, 21.65 g, 83.3% yield | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C13H13N3O4S
